* File: INX1.pex.netlist.pex
* Created: Mon Jun  5 11:46:40 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INX1%D_VDD 1 4 18
c4 18 0 0.11669f
c5 9 0 0.126757f
c6 4 0 0.274308f
c7 1 0 0.338204f
r8 18 22 0.0392853
r9 9 22 0.103889
r10 1 9 0.0120155
r11 1 4 0.0329425
r12 1 10 0.0329425
r13 1 10 0.0935
r14 1 4 0.102
.ends

.subckt PM_INX1%D_GND 1 3 9
c4 9 0 0.291536f
c5 3 0 0.239059f
c6 1 0 0.331006f
r7 3 4 0.146389
r8 1 4 0.0120155
r9 1 9 0.0329425
r10 1 13 0.0329425
r11 1 13 0.085
r12 1 9 0.1105
.ends

.subckt PM_INX1%OUT 2 6 11 12 15
c10 15 0 0.150326f
c11 12 0 0.105337f
c12 11 0 0.0973353f
c13 6 0 0.282688f
c14 2 0 0.134683f
r15 15 18 0.074375
r16 11 13 0.0519666
r17 11 12 0.0519666
r18 6 18 0.0168885
r19 6 13 0.44625
r20 3 9 0.0172428
r21 3 12 0.177083
r22 2 9 0.0579306
.ends

.subckt PM_INX1%IN 2 4 5 7 8 10 12 15
c14 15 0 0.231993f
c15 12 0 0.0374772f
c16 8 0 0.271054f
c17 5 0 0.343366f
c18 4 0 0.349925f
c19 2 0 0.604281f
r20 17 19 11.1111
r21 15 19 2.77778
r22 12 15 7
r23 8 10 25
r24 5 7 41.6667
r25 4 19 6.3741
r26 3 8 13.9682
r27 3 4 102.083
r28 2 5 13.9682
r29 1 17 6.3741
r30 1 2 177.083
.ends

