* File: INX16.pex.netlist.pex
* Created: Thu Jul 13 08:20:05 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INX16_D_VDD 1 9 13 17 21 43 44 45 46 47
c38 47 0 0.342247f
c39 46 0 0.205138f
c40 45 0 0.204741f
c41 44 0 0.205138f
c42 43 0 0.323722f
c43 35 0 0.250313f
c44 31 0 0.0701213f
c45 29 0 0.0701213f
c46 21 0 0.286145f
c47 17 0 0.271502f
c48 13 0 0.271502f
c49 9 0 0.286145f
c50 4 0 0.263409f
c51 1 0 0.140243f
r52 35 47 0.255
r53 32 46 0.325833
r54 30 45 0.325833
r55 30 31 0.0120155
r56 28 44 0.325833
r57 28 29 0.0120155
r58 25 43 0.255
r59 14 29 0.0329425
r60 13 31 0.0329425
r61 9 29 0.0329425
r62 1 35 0.0244129
r63 1 21 0.0232504
r64 1 32 0.0120155
r65 1 17 0.0329425
r66 1 22 0.0329425
r67 1 31 0.0329425
r68 1 25 0.0120155
r69 1 4 0.0329425
r70 1 10 0.0329425
r71 1 21 0.17
r72 1 22 0.085
r73 1 17 0.2465
r74 1 13 0.1955
r75 1 14 0.051
r76 1 9 0.1445
r77 1 10 0.1105
r78 1 4 0.09775
.ends

.subckt PM_INX16_D_GND 1 5 6 7 21 24
c16 27 0 0.680089f
c17 25 0 0.0701213f
c18 24 0 0.279746f
c19 22 0 0.0701213f
c20 21 0 0.279746f
c21 7 0 0.391072f
c22 6 0 0.232676f
c23 5 0 0.391072f
c24 1 0 0.762116f
r25 24 25 0.0329425
r26 23 25 0.0329425
r27 21 22 0.0329425
r28 20 22 0.0329425
r29 16 25 0.0120155
r30 12 22 0.0120155
r31 7 16 0.221944
r32 6 12 0.221944
r33 5 8 0.221944
r34 1 8 0.0120155
r35 1 27 0.0329425
r36 1 31 0.0329425
r37 1 23 0.11475
r38 1 24 0.2125
r39 1 20 0.034
r40 1 21 0.1615
r41 1 31 0.085
r42 1 27 0.2465
.ends

.subckt PM_INX16_OUT 3 4 5 6 15 16 24 26 31 32 33 34
c67 34 0 0.164441f
c68 33 0 0.157091f
c69 32 0 0.157091f
c70 31 0 0.164441f
c71 24 0 0.127622f
c72 16 0 0.314165f
c73 15 0 0.117765f
c74 6 0 0.0025344f
c75 5 0 0.0313461f
c76 4 0 0.158013f
c77 3 0 0.158013f
r78 24 34 0.122778
r79 24 26 0.023746
r80 23 33 0.122778
r81 22 23 0.0563441
r82 21 22 0.011093
r83 20 32 0.122778
r84 19 21 0.0942904
r85 19 20 0.0563441
r86 18 19 0.011093
r87 17 31 0.122778
r88 16 22 0.0594553
r89 15 26 0.023746
r90 15 16 0.273889
r91 11 21 0.0563441
r92 7 18 0.0563441
r93 6 17 0.0474919
r94 5 18 0.0594553
r95 5 6 0.236111
r96 4 11 0.278611
r97 3 7 0.278611
.ends

.subckt PM_INX16_IN 3 5 6 9 13 16 19 21 23 24 27 31 33 35 39 43 45 47 51 55 57
+ 61 63 67 72 73 74 75 76 77 78 80
c77 80 0 0.0756881f
c78 78 0 0.0523587f
c79 77 0 0.0515635f
c80 76 0 0.0499729f
c81 75 0 0.0499729f
c82 74 0 0.0499729f
c83 73 0 0.0499729f
c84 72 0 0.0897952f
c85 67 0 0.403614f
c86 63 0 0.261449f
c87 61 0 0.409061f
c88 57 0 0.142474f
c89 55 0 0.401476f
c90 51 0 0.381677f
c91 47 0 0.137037f
c92 45 0 0.237597f
c93 43 0 0.401476f
c94 39 0 0.390987f
c95 35 0 0.13728f
c96 33 0 0.143844f
c97 31 0 0.401476f
c98 27 0 0.390987f
c99 24 0 0.311336f
c100 23 0 0.137097f
c101 21 0 0.108835f
c102 19 0 0.401476f
c103 16 0 0.293684f
c104 13 0 0.381677f
c105 9 0 0.409061f
c106 6 0 0.488596f
c107 5 0 0.226398f
c108 3 0 0.403614f
r109 83 86 37.3134
r110 80 83 7
r111 70 71 7.03829
r112 69 70 46.4527
r113 65 67 91.6667
r114 64 78 10.5861
r115 63 65 13.9682
r116 63 64 58.3333
r117 59 78 2.75115
r118 59 61 91.6667
r119 58 77 10.5861
r120 57 78 10.5861
r121 57 58 54.1667
r122 53 77 2.75115
r123 53 55 91.6667
r124 49 51 87.5
r125 48 76 10.5861
r126 47 77 10.5861
r127 47 48 54.1667
r128 46 75 10.5861
r129 45 49 13.9682
r130 45 46 54.1667
r131 41 76 2.75115
r132 41 43 91.6667
r133 37 75 2.75115
r134 37 39 87.5
r135 36 74 10.5861
r136 35 76 10.5861
r137 35 36 54.1667
r138 34 73 10.5861
r139 33 75 10.5861
r140 33 34 54.1667
r141 29 74 2.75115
r142 29 31 91.6667
r143 25 73 2.75115
r144 25 27 87.5
r145 24 71 11.088
r146 23 74 10.5861
r147 23 24 54.1667
r148 22 72 4.42031
r149 21 73 10.5861
r150 21 22 41.6667
r151 17 71 6.2138
r152 17 19 91.6667
r153 16 70 1.30012
r154 15 72 8.75871
r155 15 16 50
r156 11 72 8.75871
r157 11 13 87.5
r158 7 69 6.2138
r159 7 9 91.6667
r160 6 86 7.71303
r161 5 69 8.33333
r162 5 6 38.8889
r163 1 86 8.47079
r164 1 3 91.6667
.ends

