* File: INX2.pex.netlist.pex
* Created: Fri Jun 30 08:09:14 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INX2_D_VDD 1 4 9 18 19
c7 19 0 0.320095f
c8 18 0 0.320095f
c9 13 0 0.232455f
c10 10 0 0.208645f
c11 4 0 0.285767f
r12 13 19 0.245556
r13 10 18 0.245556
r14 4 9 0.0425
r15 1 13 0.0244588
r16 1 4 0.0232045
r17 1 10 0.0245326
r18 1 5 0.0231307
r19 1 9 0.14025
r20 1 5 0.06375
.ends

.subckt PM_INX2_D_GND 1 3 5 9
c4 9 0 0.291536f
c5 5 0 0.267557f
c6 1 0 0.508646f
r7 4 5 0.113333
r8 3 5 0.0374173
r9 1 4 0.0120155
r10 1 9 0.0329425
r11 1 13 0.0329425
r12 1 13 0.085
r13 1 9 0.1105
.ends

.subckt PM_INX2_OUT 2 11 12 14 17
c19 17 0 0.222146f
c20 14 0 0.0721923f
c21 12 0 0.105337f
c22 11 0 0.0940824f
c23 2 0 0.123322f
r24 14 17 0.0566888
r25 11 12 0.0566888
r26 5 11 0.0472443
r27 5 17 0.559583
r28 3 9 0.0240399
r29 3 12 0.177083
r30 2 9 0.0267296
.ends

.subckt PM_INX2_IN 2 3 5 6 10 12 16 20
c22 20 0 0.045887f
c23 18 0 0.0685903f
c24 16 0 0.270064f
c25 12 0 0.263496f
c26 10 0 0.270074f
c27 7 0 0.269319f
c28 6 0 0.328348f
c29 3 0 0.346448f
c30 2 0 0.349344f
r31 20 23 7
r32 14 16 54.1667
r33 13 18 2.75115
r34 12 14 13.9682
r35 12 13 54.1667
r36 8 18 10.5861
r37 8 10 54.1667
r38 7 18 10.5861
r39 6 23 29.4335
r40 6 7 81.25
r41 3 5 41.6667
r42 2 23 15.2826
r43 1 3 13.9682
r44 1 2 102.083
.ends

