* File: INX32.pex.netlist.pex
* Created: Thu Jul 13 08:20:44 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INX32_D_VDD 1 8 12 16 20 24 32 51 52 53 54 55 56
c45 56 0 0.345184f
c46 55 0 0.308404f
c47 54 0 0.308007f
c48 53 0 0.308007f
c49 52 0 0.308404f
c50 51 0 0.345184f
c51 41 0 0.0701213f
c52 36 0 0.0701213f
c53 34 0 0.0701213f
c54 32 0 0.0701213f
c55 24 0 0.287404f
c56 20 0 0.271502f
c57 16 0 0.271502f
c58 12 0 0.271502f
c59 8 0 0.287404f
c60 4 0 0.239598f
c61 1 0 0.463177f
r62 42 56 0.264444
r63 40 55 0.184167
r64 40 41 0.0120155
r65 37 54 0.184167
r66 35 53 0.184167
r67 35 36 0.0120155
r68 33 52 0.184167
r69 33 34 0.0120155
r70 30 51 0.264444
r71 30 32 0.0120155
r72 25 41 0.0329425
r73 20 41 0.0329425
r74 17 36 0.0329425
r75 13 34 0.0329425
r76 12 36 0.0329425
r77 9 32 0.0329425
r78 8 34 0.0329425
r79 4 32 0.0329425
r80 1 42 0.0120155
r81 1 24 0.0329425
r82 1 37 0.0120155
r83 1 16 0.0329425
r84 1 21 0.0329425
r85 1 24 0.204
r86 1 25 0.051
r87 1 20 0.1445
r88 1 21 0.102
r89 1 16 0.2295
r90 1 17 0.017
r91 1 12 0.1785
r92 1 13 0.068
r93 1 8 0.1275
r94 1 9 0.1275
r95 1 4 0.068
.ends

.subckt PM_INX32_D_GND 1 8 9 10 11 12 13 39 42 45 48 50 55
c51 55 0 0.271502f
c52 50 0 0.0701213f
c53 48 0 0.271502f
c54 46 0 0.0701213f
c55 45 0 0.271502f
c56 43 0 0.0701213f
c57 42 0 0.271502f
c58 40 0 0.0701213f
c59 39 0 0.271502f
c60 14 0 0.214598f
c61 13 0 0.173692f
c62 12 0 0.163614f
c63 11 0 0.163614f
c64 10 0 0.163614f
c65 9 0 0.163614f
c66 8 0 0.271569f
c67 1 0 0.469434f
r68 48 50 0.0329425
r69 47 50 0.0329425
r70 45 46 0.0329425
r71 44 46 0.0329425
r72 42 43 0.0329425
r73 41 43 0.0329425
r74 39 40 0.0329425
r75 38 40 0.0329425
r76 34 50 0.0120155
r77 30 46 0.0120155
r78 26 43 0.0120155
r79 18 40 0.0120155
r80 13 34 0.207778
r81 12 30 0.207778
r82 11 26 0.207778
r83 10 22 0.207778
r84 9 18 0.207778
r85 8 14 0.207778
r86 1 22 0.0120155
r87 1 55 0.0329425
r88 1 58 0.0329425
r89 1 14 0.0245125
r90 1 52 0.0231507
r91 1 47 0.0765
r92 1 48 0.119
r93 1 44 0.1275
r94 1 45 0.204
r95 1 41 0.0425
r96 1 42 0.153
r97 1 58 0.0935
r98 1 55 0.238
r99 1 38 0.0085
r100 1 39 0.187
r101 1 52 0.0595
.ends

.subckt PM_INX32_OUT 7 8 9 10 11 12 55 62 63 64 65 66
c74 66 0 0.283016f
c75 65 0 0.259018f
c76 64 0 0.259018f
c77 63 0 0.259018f
c78 62 0 0.282811f
c79 55 0 0.690192f
c80 12 0 0.241628f
c81 11 0 0.120181f
c82 10 0 0.120036f
c83 9 0 0.120036f
c84 8 0 0.120036f
c85 7 0 0.121506f
r86 53 55 0.00277174
r87 52 66 0.240833
r88 51 53 0.113641
r89 51 52 0.043778
r90 50 51 0.0332609
r91 49 65 0.240833
r92 48 50 0.107174
r93 48 49 0.043778
r94 47 48 0.0332609
r95 46 64 0.240833
r96 45 47 0.107174
r97 45 46 0.043778
r98 44 45 0.0332609
r99 43 63 0.240833
r100 42 44 0.107174
r101 42 43 0.043778
r102 41 42 0.0332609
r103 40 62 0.240833
r104 39 41 0.107174
r105 39 40 0.043778
r106 37 39 0.0332609
r107 33 53 0.0372443
r108 29 50 0.043778
r109 25 47 0.043778
r110 21 44 0.043778
r111 17 41 0.043778
r112 13 37 0.043778
r113 12 33 0.17
r114 11 29 0.160556
r115 10 25 0.160556
r116 9 21 0.160556
r117 8 17 0.160556
r118 7 13 0.160556
.ends

.subckt PM_INX32_IN 3 7 11 15 19 23 27 31 35 39 43 47 51 55 59 63 67 71 75 77 79
+ 83 86
c88 86 0 0.0605505f
c89 83 0 0.364269f
c90 79 0 0.869993f
c91 77 0 2.80361f
c92 75 0 0.332882f
c93 71 0 0.726042f
c94 67 0 0.328663f
c95 63 0 0.713876f
c96 59 0 0.328663f
c97 55 0 0.713876f
c98 51 0 0.328663f
c99 47 0 0.713876f
c100 43 0 0.328663f
c101 39 0 0.713876f
c102 35 0 0.328663f
c103 31 0 0.713876f
c104 27 0 0.328663f
c105 23 0 0.713876f
c106 19 0 0.328663f
c107 15 0 0.726042f
c108 11 0 0.328663f
c109 7 0 0.70341f
c110 3 0 0.325537f
r111 93 94 26.1407
r112 92 93 19.0114
r113 89 92 14.2586
r114 86 89 7
r115 81 112 8.24387
r116 81 83 87.5
r117 77 112 23.7643
r118 77 110 23.7643
r119 77 79 237.5
r120 73 110 8.24387
r121 73 75 70.8333
r122 69 110 23.7643
r123 69 108 21.3878
r124 69 71 191.667
r125 65 108 8.24387
r126 65 67 70.8333
r127 61 108 23.7643
r128 61 106 21.3878
r129 61 63 191.667
r130 57 106 8.24387
r131 57 59 70.8333
r132 53 106 23.7643
r133 53 104 21.3878
r134 53 55 191.667
r135 49 104 8.24387
r136 49 51 70.8333
r137 45 104 23.7643
r138 45 102 21.3878
r139 45 47 191.667
r140 41 102 8.24387
r141 41 43 70.8333
r142 37 102 23.7643
r143 37 100 21.3878
r144 37 39 191.667
r145 33 100 8.24387
r146 33 35 70.8333
r147 29 100 23.7643
r148 29 98 21.3878
r149 29 31 191.667
r150 25 98 8.24387
r151 25 27 70.8333
r152 21 98 23.7643
r153 21 96 21.3878
r154 21 23 191.667
r155 17 96 8.24387
r156 17 19 70.8333
r157 13 96 23.7643
r158 13 94 21.3878
r159 13 15 191.667
r160 9 94 8.24387
r161 9 11 70.8333
r162 5 93 8.24387
r163 5 7 177.083
r164 1 92 8.24387
r165 1 3 70.8333
.ends

