* File: INX4.pex.netlist.pex
* Created: Fri Jun 30 08:12:56 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INX4_D_VDD 1 8 13 25 26
c14 26 0 0.167534f
c15 25 0 0.262612f
c16 19 0 0.0701213f
c17 8 0 0.271502f
c18 4 0 0.215788f
c19 1 0 0.49855f
r20 20 26 0.198333
r21 18 25 0.198333
r22 18 19 0.0120155
r23 9 19 0.0329425
r24 8 13 0.09775
r25 4 19 0.0329425
r26 1 20 0.0120155
r27 1 8 0.0329425
r28 1 14 0.0329425
r29 1 14 0.0935
r30 1 13 0.14025
r31 1 9 0.0085
r32 1 4 0.051
.ends

.subckt PM_INX4_D_GND 1 3 5 13
c4 13 0 0.523051f
c5 5 0 0.436974f
c6 1 0 0.522842f
r7 9 13 0.0374263
r8 5 13 0.0374263
r9 1 3 0.0811364
r10 1 13 0.00193182
r11 1 9 0.14025
r12 1 5 0.21675
.ends

.subckt PM_INX4_OUT 2 6 7 8 23 24
c18 24 0 0.29807f
c19 23 0 0.147726f
c20 8 0 0.135868f
c21 7 0 0.268774f
c22 6 0 0.344401f
c23 2 0 0.195668f
r24 20 24 0.255
r25 10 23 0.255
r26 9 12 0.0991667
r27 9 10 0.00499195
r28 8 12 0.0425
r29 7 20 0.0474919
r30 7 8 0.174722
r31 4 12 0.00499195
r32 4 6 0.165278
r33 3 16 0.00499195
r34 3 6 0.174722
r35 2 16 0.0283333
r36 2 16 0.0944444
.ends

.subckt PM_INX4_IN 2 4 7 9 11 12 13 16 18 22 27 29
c22 37 0 0.251111f
c23 29 0 0.0908258f
c24 27 0 0.0558874f
c25 22 0 0.30519f
c26 18 0 0.222661f
c27 16 0 0.309755f
c28 13 0 0.143311f
c29 12 0 0.154157f
c30 9 0 0.466591f
c31 7 0 0.308562f
c32 4 0 0.402361f
c33 2 0 0.354254f
r34 32 37 20.8333
r35 29 32 7
r36 24 26 18.75
r37 20 22 65.625
r38 19 27 10.5861
r39 18 20 13.9682
r40 18 19 54.1667
r41 14 27 2.75115
r42 14 16 65.625
r43 13 26 12.5
r44 12 27 10.5861
r45 12 13 54.1667
r46 9 11 75
r47 5 26 1.46822
r48 5 7 65.625
r49 4 24 1.46822
r50 3 37 6.3741
r51 3 4 116.667
r52 2 37 6.3741
r53 1 9 13.9682
r54 1 2 102.083
.ends

