* File: INX6.pex.netlist.pex
* Created: Fri Jun 30 09:12:41 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INX6_D_VDD 1 8 23 24
c13 24 0 0.22308f
c14 23 0 0.336372f
c15 20 0 0.0701213f
c16 18 0 0.0701213f
c17 8 0 0.283408f
c18 4 0 0.239598f
c19 1 0 0.392713f
r20 19 24 0.344722
r21 19 20 0.0120155
r22 17 23 0.288056
r23 17 18 0.0120155
r24 13 20 0.0329425
r25 9 18 0.0329425
r26 8 20 0.0329425
r27 4 18 0.0329425
r28 1 13 0.068
r29 1 8 0.1275
r30 1 9 0.1275
r31 1 4 0.068
.ends

.subckt PM_INX6_D_GND 1 4 5 23
c10 23 0 0.271502f
c11 18 0 0.0701213f
c12 17 0 0.352698f
c13 5 0 0.287873f
c14 4 0 0.268007f
c15 1 0 0.399009f
r16 17 18 0.0329425
r17 16 18 0.0329425
r18 6 18 0.0120155
r19 5 10 0.207778
r20 4 6 0.207778
r21 1 10 0.0120155
r22 1 23 0.0329425
r23 1 23 0.19975
r24 1 16 0.04675
r25 1 17 0.14875
.ends

.subckt PM_INX6_OUT 2 4 9 10 16 22 23
c31 23 0 0.27358f
c32 22 0 0.15991f
c33 16 0 0.0793377f
c34 10 0 0.0234487f
c35 9 0 0.206954f
c36 4 0 0.127979f
c37 2 0 0.208085f
r38 19 23 0.155833
r39 16 18 0.0350353
r40 16 17 0.0435353
r41 12 22 0.0991667
r42 11 14 0.0708333
r43 11 12 0.00499195
r44 10 14 0.0425
r45 9 19 0.0474919
r46 9 10 0.2125
r47 4 14 0.00499195
r48 4 18 0.136944
r49 2 17 0.2975
.ends

.subckt PM_INX6_IN 3 8 9 11 12 14 15 16 18 19 21 23 26 28 32 34 37 41
c36 41 0 0.157792f
c37 37 0 0.148113f
c38 34 0 0.0507626f
c39 32 0 0.0501751f
c40 28 0 0.112785f
c41 26 0 0.40386f
c42 21 0 0.282271f
c43 19 0 0.226541f
c44 16 0 0.389427f
c45 15 0 0.165302f
c46 14 0 0.256947f
c47 12 0 0.116949f
c48 9 0 0.282271f
c49 8 0 0.227059f
c50 3 0 0.414913f
r51 37 42 15.2843
r52 37 41 15.2843
r53 34 37 7
r54 29 31 25
r55 24 26 95.8333
r56 21 23 58.3333
r57 20 32 10.5861
r58 19 24 13.9682
r59 19 20 58.3333
r60 16 32 2.75115
r61 16 18 83.3333
r62 15 31 12.5
r63 14 21 13.9682
r64 14 15 54.1667
r65 13 28 2.75115
r66 12 32 10.5861
r67 12 13 43.75
r68 9 31 1.46822
r69 9 11 58.3333
r70 8 28 10.5861
r71 8 42 68.75
r72 5 29 1.46822
r73 5 41 47.9167
r74 1 28 10.5861
r75 1 3 95.8333
.ends

